US07598232B2
A solution of (E)-2,4,6-trimethoxystyryl-3-(2-acetoxypropionamido)-4-methoxybenzylsulfone (10 mmol) was hydrolyzed with potassium carbonate (70 mmol) in 1:1 ethanol/water (25 mL) to give (E)-2,4,6-trimethoxystyryl-3-(2-hydroxy-2-methylacetamido)-4-methoxy benzylsulfone. (m.p. 174-1 76° C.)

reactant | (E)-2,4,6-trimethoxystyryl-3-(2-acetoxypropionamido)-4-methoxybenzylsulfone | 10 mmol | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)NC(C(C)OC(C)=O)=O)S(=O)(=O)C(C2=CC(=C(C=C2)OC)NC(C(C)OC(C)=O)=O)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C48H56N2O16S
reactant | potassium carbonate | 70 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol water | 25 mL | C(C)O.O
product | (E)-2,4,6-trimethoxystyryl-3-(2-hydroxy-2-methylacetamido)-4-methoxy benzylsulfone | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)NC(C(C)O)=O)S(=O)(=O)C(C2=CC(=C(C=C2)OC)NC(C(O)C)=O)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C44H52N2O14S
